US04346087
Into an apparatus similar to that in Example 1, were charged 339.5 g (1 mole) of N-(2-hydroxy)hexadecyldiethylenetriamine and 130.1 g (1 mole) of ethyl 3-formylpropionate. At 135° to 140° C., 18 g of water and 46 g of ethanol were distilled off to obtain 4-(2-hydroxyhexadecyl)aminoethyl-2,3,6,7-tetrahydro-1,4-diazocin-5-one.

reactant | N-(2-hydroxy)hexadecyldiethylenetriamine | 1 mole, 339.5 g | OC(CNCCNCCN)CCCCCCCCCCCCCC | C20H45N3O
reactant | ethyl 3-formylpropionate | 1 mole, 130.1 g | C(=O)CCC(=O)OCC | C6H10O3
product | 4-(2-hydroxyhexadecyl)aminoethyl-2,3,6,7-tetrahydro-1,4-diazocin-5-one | OC(CNCCN1CCN=CCCC1=O)CCCCCCCCCCCCCC | C24H47N3O2
